US05387725
Into a three-necked 100 mL round-bottomed flask is placed o-phenylene diamine (26 g). The flask is then equipped with a drying tube, magnetic stirbar, thermometer, powder addition funnel, and nitrogen inlet. The o-phenylene diamine is then stirred and heated to 105° C. and solid 9,9-dichlorofluorene is added to the melt. An immediate reaction occur s as evidenced by a color change to dark brown, formation of a copious precipitate and an increase in temperature to 110°-120° C. The temperature is then increased to 130° C. and held there for 4 hours during which time the mixture becomes more liquid. The reaction is then allowed to cool and the excess o-phenylenediamine is removed by pouring the reaction mixture into ethanol and filtering. The resulting dark brown solid is recrystallized from toluene to yield 9,9-bis(3,4-diaminophenyl)fluorene. HNMR (DMSO): delta 4.97 (bs, 8H, NH2), 6.07-6.11 (m, 2H), 6.31-6.42 (m, 4H), 7.17-7.33 (m, 6H), 7.76-7.79 (m, 2H). C-13 NMR (DMSO) (ppm): 152.55, 139.7 1,136.29, 134.37, 132.64, 127.56, 127.17, 126.40, 120.37, 118.36, 117.69, 115.63, 115.11, 64.4 (quaternary carbon) where s=singlet, m=multiplet, and bs=broad singlet.

reactant | o-phenylene diamine | 26 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 9,9-dichlorofluorene | ClC1(C2=CC=CC=C2C=2C=CC=CC12)Cl | C13H8Cl2
product | 9,9-bis(3,4-diaminophenyl)fluorene | NC=1C=C(C=CC1N)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC(=C(C=C1)N)N | C25H22N4
